US07319152B2
5-(3-methoxyphenyl)-3,3-dimethylindan-1-one
The title compound was prepared from trifluoro-methanesulfonic acid 3,3-dimethyl-1-oxo-indan-5-yl ester and 3-methoxyphenyl boronic acid according to the procedure described in example 21. MS (ES) m/z 267.2; HRMS: calcd for C18H18O2+H+, 267.13796; found (ESI, [M+H]+), 267.1386.

reactant | trifluoro-methanesulfonic acid 3,3-dimethyl-1-oxo-indan-5-yl ester | CC1(CC(C2=CC=C(C=C12)OS(=O)(=O)C(F)(F)F)=O)C | C12H11F3O4S
reactant | 3-methoxyphenyl boronic acid | COC=1C=C(C=CC1)B(O)O | C7H9BO3
product | 5-(3-methoxyphenyl)-3,3-dimethylindan-1-one | COC=1C=C(C=CC1)C=1C=C2C(CC(C2=CC1)=O)(C)C | C18H18O2
